US03962178
In a mixture of 525 ml of 1N aqueous sodium hydroxide solution and 400 ml of water was dissolved 61.00 g of 2-pyridinethiol. To this solution was added dropwise 300 ml of water containing 39.36 g of zinc chloride, and the resulting mixture was stirred at 20°C for 3 hours. The reaction mixture was then filtered off, washed with one liter of water and dried. There was obtained 74.25 g of bis(2-pyridylthio)zinc as slightly yellowish colorless crystals. The crystals gradually decomposed at about 240°C.

reactant | 2-pyridinethiol | 61.00 g | N1=C(C=CC=C1)S | C5H5NS
reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | sodium hydroxide | 1N, 525 ml | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | water | 300 ml, 39.36 g | O | H2O
product | bis(2-pyridylthio)zinc | 74.25 g | N1=C(C=CC=C1)S[Zn]SC1=NC=CC=C1 | InChI=1S/2C5H5NS.Zn/c2*7-5-3-1-2-4-6-5;/h2*1-4H,(H,6,7);/q;;+2/p-2
